US08138215B2
To a solution of methyl 3-(trifluoromethylsulfonyloxy)picolinate (i.e. Cap 174, step a) (570 mg, 2.0 mmol), an intermediate in the preparation of Cap-174, in DMF (20 mL) was added LiCl (254 mg, 6.0 mmol), tributyl(vinyl)stannane (761 mg, 2.4 mmol) and bis(triphenylphosphine)palladium dichloride (42 mg, 0.06 mmol). The mixture was heated at 100° C. for 4 h before the solvent was removed in vacuo. The residue was taken up in acetonitrile (50 mL) and hexanes (50 mL) and the resulting mixture was washed twice with hexanes. The acetonitrile layer was then separated, filtered through Celite, and evaporated. Purification of the residue by flash chromatography on a Horizon instrument (gradient elution with 25% ethyl acetate in hexanes to 65% ethyl acetate in hexanes) afforded methyl 3-vinylpicolinate (i.e. Cap-175, step a) (130 mg, 40%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ ppm 8.60 (1 H, dd, J=4.6, 1.7 Hz), 7.94 (1 H, d, J=7.7 Hz), 7.33-7.51 (2 H, m), 5.72 (1 H, d, J=17.2 Hz), 5.47 (1 H, d, J=11.0 Hz), 3.99 (3 H, s). Rt=1.29 min (Cond.-MD1); LC/MS: Anal. Calcd. for [M+H]+ C9H10NO2: 164.07; found: 164.06.

reactant | methyl 3-(trifluoromethylsulfonyloxy)picolinate | FC(S(=O)(=O)OC=1C(=NC=CC1)C(=O)OC)(F)F | C8H6F3NO5S
reactant | LiCl | 6.0 mmol, 254 mg | [Li+].[Cl-]
reactant | tributyl(vinyl)stannane | 2.4 mmol, 761 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 0.06 mmol, 42 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 3-vinylpicolinate | C(=C)C=1C(=NC=CC1)C(=O)OC | C9H9NO2
